US08003666B2
To a dichloromethane solution (15 mL) of the (−)-5-benzyl-7-(tert-butoxycarbonylamino)-7-methyl-5-azaspiro[2.4]heptan-4-one (950 mg, 2.88 mmol) was added trifluoroacetic acid (7.5 mL) at room temperature, and stirred at the same temperature for 40 minutes. The solvent was removed under reduced pressure, and the solution was subjected to azeotropy with toluene (twice). After that, to this solution was added a saturated aqueous solution (30 mL) of sodium bicarbonate, and the mixture was extracted with chloroform (100 mL and 50 mL×2). To the combined organic layer was added anhydrous sodium sulfate to dry the solution. The drying agent was removed by filtration, and then the solvent was removed under reduced pressure. Thus-obtained residue was dissolved in tetrahydrofuran (30 mL), to this solution was added lithium aluminum hydroxide (218 mg, 5.74 mmol) with stirring under cooling with ice, and the mixture was stirred at the same temperature for 1 hour. Furthermore, to this solution was added lithium aluminum hydroxide (109 mg, 2.87 mmol), and the mixture was stirred at room temperature for 2.5 hours. After that, this solution was cooled with ice and to this solution was cautiously added water (0.31 mL), 15% aqueous solution (0.31 mL) of sodium hydroxide and water (0.93 mL) sequentially. Thus-obtained mixture was stirred at room temperature overnight. And then to this mixture was added anhydrous sodium sulfate to dry the mixture, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure to obtain a crude product of 7-amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane as transparent and colorless oil. The obtained crude product was used for the subsequent reaction without further purification.

reactant | (−)-5-benzyl-7-(tert-butoxycarbonylamino)-7-methyl-5-azaspiro[2.4]heptan-4-one | 2.88 mmol, 950 mg | C(C1=CC=CC=C1)N1C(C2(CC2)C(C1)(C)NC(=O)OC(C)(C)C)=O | C19H26N2O3
reactant | trifluoroacetic acid | 7.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | lithium aluminum hydroxide | 5.74 mmol, 218 mg | [OH-].[Al+3].[Li+].[OH-].[OH-].[OH-]
reactant | lithium aluminum hydroxide | 2.87 mmol, 109 mg | [OH-].[Al+3].[Li+].[OH-].[OH-].[OH-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 0.93 mL | O | H2O
solvent | water | 0.31 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 7-amino-5-benzyl-7-methyl-5-azaspiro[2.4]heptane | NC1(CN(CC12CC2)CC2=CC=CC=C2)C | C14H20N2
